Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
#ERROR!
___ 09:15AM BLOOD WBC-2.6* RBC-3.83* Hgb-9.8* Hct-31.0* 
MCV-81* MCH-25.6* MCHC-31.6* RDW-17.6* RDWSD-51.4* Plt Ct-67*
___ 09:15AM BLOOD Neuts-52.9 ___ Monos-21.4* 
Eos-0.4* Baso-0.8 Im ___ AbsNeut-1.36* AbsLymp-0.62* 
AbsMono-0.55 AbsEos-0.01* AbsBaso-0.02
___ 09:42AM BLOOD ___ PTT-39.0* ___
___ 09:15AM BLOOD Glucose-116* UreaN-6 Creat-0.7 Na-125* 
K-2.6* Cl-80* HCO3-28 AnGap-17
___ 09:15AM BLOOD Albumin-3.6 Calcium-8.2* Phos-2.4* Mg-1.8
___ 09:15AM BLOOD ALT-40 AST-119* AlkPhos-262* TotBili-3.0*
___ 09:15AM BLOOD Lipase-43

___ 09:15AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
___ 10:20AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ 09:15AM BLOOD cTropnT-<0.01
___ 02:50PM BLOOD CK-MB-2

___ 10:20AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-7.0 
Leuks-NEG

PERTINENT LABS:
#ERROR!
___ 09:15AM BLOOD Albumin-3.6 Calcium-8.2* Phos-2.4* Mg-1.8
___ 02:50PM BLOOD Calcium-7.4* Phos-2.3* Mg-2.4
___ 09:40PM BLOOD Calcium-7.9* Phos-1.8* Mg-2.4
___ 05:20PM BLOOD Calcium-9.0 Phos-2.0* Mg-2.2
___ 05:11AM BLOOD Calcium-8.5 Phos-2.8 Mg-2.1
___ 12:45PM BLOOD Calcium-8.5 Phos-2.9 Mg-2.0

___ 05:05AM BLOOD Ret Aut-2.5* Abs Ret-0.09
___ 05:05AM BLOOD calTIBC-428 Ferritn-20 TRF-329

___ 10:20AM URINE Hours-RANDOM UreaN-76 Creat-18 K-14 Cl-84 
HCO3-5
___ 10:20AM URINE UCG-NEG Osmolal-279

MICROBIOLOGY:
#ERROR!
___ BCx x2 NGTD
___ UCx 
   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    10,000-100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 
___ 10:08AM OTHER BODY FLUID FluAPCR-NEG FluBPCR-NEG

IMAGING:
#ERROR!
___ CXR
FINDINGS:  
  The lungs are clear. The pulmonary vasculature is 
unremarkable. No pleural abnormalities. The cardiomediastinal 
silhouette is unremarkable. No acute osseous abnormalities. 
IMPRESSION:  
  No pneumonia. 

___ Liver US
FINDINGS:  
  
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the liver is smooth. There is no focal liver mass.  
The portal veins are patent with hepatopetal flow. There is no 
ascites.  There is a prominent umbilical vein. 
  
BILE DUCTS: There is no intrahepatic biliary dilation. 
CBD: 4 mm  4 mm 
  
GALLBLADDER: Cholelithiasis without gallbladder wall thickening. 

  
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, 
without masses or pancreatic ductal dilation, with portions of 
the pancreatic tail obscured by overlying bowel gas. 
  
SPLEEN: Normal echogenicity. 
  Spleen length: 13.1 cm 
  
KIDNEYS: Limited views of the kidneys show no hydronephrosis. 
  Right kidney: 13.1 cm  13.1 cm 
  Left kidney: 12.3 cm  12.3 cm 
  
RETROPERITONEUM: The visualized portions of aorta and IVC are 
within normal limits. 
  
IMPRESSION:  
Coarsened hepatic parenchyma without concerning focal lesion.  
Patent portal veins. Cholelithiasis, without evidence of 
cholecystitis. 
Stable borderline splenomegaly. 

DISCHARGE LABS:
#ERROR!
___ 05:11AM BLOOD WBC-3.6* RBC-3.56* Hgb-9.1* Hct-29.7* 
MCV-83 MCH-25.6* MCHC-30.6* RDW-17.5* RDWSD-53.6* Plt Ct-60*
___ 05:11AM BLOOD ___ PTT-33.9 ___
___ 12:45PM BLOOD Glucose-192* UreaN-9 Creat-0.7 Na-132* 
K-4.3 Cl-93* HCO3-25 AnGap-14
___ 05:11AM BLOOD ALT-26 AST-63* AlkPhos-219* TotBili-1.8*
___ 12:45PM BLOOD Calcium-8.5 Phos-2.9 Mg-2.___ with PMH chronic HCV s/p treatment with SVR, EtOH use 
___, EtOH hepatitis c/b cirrhosis decompensated by HE, 
ascites who p/w generalized weakness, nausea, fatigue. Found to 
have hypoK. Course c/b refeeding.

TRANSITIONAL ISSUES:
#ERROR!
[ ] Please draw chem10 at next visit ___, assess volume status
    [ ] Titrate lyte supplementation - sent home with:
        20 mEQ KCL daily
        400mg TID magnesium
        2 packets neutra-phos BID for 3 day supply
[ ] Consider repeat ECG for QTc monitoring; 530-570ms initially, 
497ms on discharge
[ ] Nadolol held on discharge, may have contributed to patient 
malaise
[ ] Consider downtitrating spironolactone to 100mg daily at 
Liver appt
[ ] Continue to reinforce EtOH abstinence

ACUTE ISSUES:
#ERROR!
#GENERALIZED WEAKNESS, FATIGUE, NAUSEA
#Viral Upper Respiratory Tract Infection
Presented with weakness, fatigue, nausea. Likely a mix of viral 
URI, low PO intake and ongoing diuretics, unable to fill home 
lyte supplementation pills at pharmacy altogether resulting in 
electrolyte derangement. Nadolol was recently started and may 
contribute to some degree to patient malaise.  Given last EGD 
with fairly small non-bleeding varices, nadolol was stopped. 
Otherwise patient provided with supportive care as below.

#HYPOKALEMIA
#HYPOPHOSPHATEMIA
#CONCERN FOR REFEEDING
As above for etiology. While inpatient had further drops 
particularly of phosphate concerning for mild refeeding syndrome 
in setting of EtOH use and GI upset. Repleted aggressive with PO 
and discharged on continued oral supplementation with plan for 
close follow up. 

#ETOH CIRRHOSIS 
#ETOH HEPATITIS
Admission MELD = 24, previously decompensated by HE, ascites. 
Admission MDF 24.6, good prognosis. Previously EtOH abstinent 
for 7mos after being diagnosed with cirrhosis, but notes she has 
been having a drink 'every couple of days' for the last few 
months. ETOH on admission 196. SW saw pt but she denied 
drinking. Regarding HCV - she is s/p treatment for HCV with 
documented SVR. Labs stable or improved through hospitalization. 

- VOLUME: no ascites on RUQUS
          continue home furosemide/spironolactone (40/100BID)
          > consider downtitration to 100mg daily as outpatient
- INFECTION: see above, no h/o SBP
- BLEED: known grade II varices and PHG, see above re BB
- ENCEPHALOPATHY: no s/s currently, continue lactulose/rifaximin
- SCREENING: ___ up to date, needs repeat EGD
            (last ___, has scheduled for ___

#LONG QT
Newly noted on admission ECG to have QTc 530 and 570ms, possibly 
iso electrolyte abnormalities or possibly pt taking excess 
ondansetron (home med) iso GI upset. Asx. Improved to 497ms on 
day of discharge. Would consider repeating as outpatient. 
Stopped home ondansetron and spot dosed with 0.5mg lorazepam 
instead for nausea.

CHRONIC ISSUES:
#ERROR!
#NORMOCYTIC ANEMIA
Hb stable.

#ANXIETY/DEPRESSION
continued citalopram 10 mg tablet daily

#HYPOTHYROIDISM
continued home levothyroxine 100mcg daily 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 100 mg PO BID 
2. Lactulose 30 mL PO BID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. rifAXIMin 550 mg PO BID 
5. Citalopram 10 mg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Furosemide 40 mg PO DAILY 
8. Nadolol 20 mg PO DAILY 
9. Omeprazole 20 mg PO BID 
10. Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

11. Magnesium Oxide 400 mg PO TID 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  Neutra-Phos 2 PKT PO BID Duration: 3 Days 
RX *potassium, sodium phosphates 280 mg-160 mg-250 mg 2 
packet(s) by mouth twice a day Disp #*12 Packet Refills:*0 
3.  Potassium Chloride 20 mEq PO DAILY 
Hold for K > 
RX *potassium chloride 20 mEq 1 packet by mouth once a day Disp 
#*30 Tablet Refills:*0 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
5.  Citalopram 10 mg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Furosemide 40 mg PO DAILY  
8.  Lactulose 30 mL PO BID  
9.  Levothyroxine Sodium 100 mcg PO DAILY  
10.  Magnesium Oxide 400 mg PO TID  
11.  Omeprazole 20 mg PO BID  
12.  rifAXIMin 550 mg PO BID  
13.  Spironolactone 100 mg PO BID  
14. HELD- Nadolol 20 mg PO DAILY  This medication was held. Do 
not restart Nadolol until restarted by your GI doctor
15. HELD- Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - 
First Line  This medication was held. Do not restart Ondansetron 
ODT until cleared by your PCP or GI doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypokalemia
Hypophosphatemia
Refeeding Syndrome
EtOH Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___.

You were brought to the hospital because your electrolytes were 
very low.

You were given electrolytes by IV and monitored for any alcohol 
withdrawal.

Please keep all your follow up appointments and take your 
medications as below.

We wish you all the best, and once again it was a pleasure 
caring for you.

Sincerely,
- Your ___ Team
 
Followup Instructions:
___